US07868014B2
Add borane-THF (1 M in THF, 3.2 mL) complex dropwise to an ice-cooled solution of 2-bromo-4-chlorobenzoic acid (500 mg, 2.1 mmol) in THF (2 mL). Remove the cooling bath and stir overnight. Slowly add water (1 mL) and solid sodium carbonate. Stir 1 h. Filter and wash solids with THF. Chromatograph on silica gel, eluting with 0:100 to 30:70 ethyl acetate:dichloromethane to give 2-bromo-4-chlorobenzyl alcohol as a white solid (378 mg, 80%).

reactant | borane THF | 1 M, 3.2 mL | B.C1CCOC1
reactant | 2-bromo-4-chlorobenzoic acid | 2.1 mmol, 500 mg | BrC1=C(C(=O)O)C=CC(=C1)Cl | C7H4BrClO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-bromo-4-chlorobenzyl alcohol | 378 mg, 80% | BrC1=C(CO)C=CC(=C1)Cl | C7H6BrClO
